US06686353B1
A mixture of 101 mg of homopiperazine, 175 mg of homopiperazine dihydrochloride, 3 mL of ethanol was heated to 70° C. into a solution. 0.115 mL of benzyl chloride was added and the mixture was stirred at 70° C. for 3 hours. After cooling to room temperature, ethanol was removed under reduced pressure, and 20 mL of aqueous 2N sodium hydroxide solution was added to the solution, which was extracted with 20 mL×2 of ethyl acetate. The organic layers were combined, washed with 20 mL of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated to give 1-benzyihomopiperazine.

reactant | homopiperazine | 101 mg | N1CCNCCC1 | C5H12N2
reactant | homopiperazine dihydrochloride | 175 mg | Cl.Cl.N1CCNCCC1
reactant | benzyl chloride | 0.115 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-benzyihomopiperazine | C(C1=CC=CC=C1)N1CCNCCC1 | C12H18N2
